US05939451
0.314 g (0.001 mol) of 4-amino-N-(6-chloro-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide and 8.6 ml (0.1 mol) of isopropylamine were stirred in 15 ml of ethanol in an autoclave at 130° C. for 3 hours. The reaction mixture was freed from solvent, the residue was suspended in 8 ml of ethanol and treated in an ultra sound bath for 15 minutes. The precipitate was filtered off, dissolved in 10 ml of 0.1N NaOH and filtered. The filtrate was adjusted to pH 6 with 0.1N HCl. The precipitate was filtered off under suction, washed with water and dried. There was obtained 0.12 g (36%) of 4-amino-N-(6-isopropylamino-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide as beige crystals; m.p. 240° C. (dec.).

reactant | 4-amino-N-(6-chloro-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.001 mol, 0.314 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)Cl)NC | C11H12ClN5O2S
reactant | isopropylamine | 0.1 mol, 8.6 ml | C(C)(C)N | C3H9N
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 4-amino-N-(6-isopropylamino-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.12 g, 36% | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NC(C)C)NC | C14H20N6O2S
